US03987047
11-Hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline dihydrochloride was prepared by hydrolysis of 11-hydroxy-2-phenoxycarbonyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline with concentrated hydrochloric acid. Yield of the dihydrochloride: 65% of theory; m.p. 289° C. (decomp.).

reactant | 11-hydroxy-2-phenoxycarbonyl-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline | OC1=C2C(=NC=3C=CC=CC13)CCCN(C2)C(=O)OC2=CC=CC=C2 | C20H18N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 11-Hydroxy-2,3,4,5-tetrahydro-1H-azepino[4,3-b]quinoline dihydrochloride | Cl.Cl.OC1=C2C(=NC=3C=CC=CC13)CCCNC2 | InChI=1S/C13H14N2O.2ClH/c16-13-9-4-1-2-5-11(9)15-12-6-3-7-14-8-10(12)13;;/h1-2,4-5,14H,3,6-8H2,(H,15,16);2*1H
